US06835732B2
5-Methyl-thiophene-2-carboxylic acid [7-(3-dimethylamino-pyrrolidin-1-yl)-4-methoxy-benzothiazol-2-yl]-amide
The title compound is synthesized starting from 3-(dimethylamino)pyrrolidine and 4-bromo-2-nitroanisole as described for 5-methyl-thiophene-2-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide and was obtained as yellow solid in 10% overall yield, MS: m/e=417 (M+H+).

reactant | 3-(dimethylamino)pyrrolidine | CN(C1CNCC1)C | C6H14N2
reactant | 4-bromo-2-nitroanisole | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | 5-methyl-thiophene-2-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)N2CCOCC2 | C18H19N3O3S2
product | 5-Methyl-thiophene-2-carboxylic acid [7-(3-dimethylamino-pyrrolidin-1-yl)-4-methoxy-benzothiazol-2-yl]-amide | CN(C1CN(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC)C | C20H24N4O2S2
